US06156761
Step 1: 8-Hydroxy-3-methyl-5-(thiazol-2-yl)-1,2,3,4-tetrahydronaphthalen-1-one
A solution of 5-bromo-8-hydroxy-3-methyl-1,2,3,4-tetrahydronaphthalen-1-one (3.0 g, 0.012 mol) and 2-(tri-n-butylstannyl)thiazole (6.4 g, 0.17 mol) in dioxan (100 mL) was degassed with nitrogen for 30 min. Tetrakis(triphenylphosphine)palladium(0) (1 g) was added and the mixture heated at reflux for 48 h. The solvent was evaporated and the residue chromatographed on silica gel, eluting with EtOAc:hexane (1:4). The title compound (1.9 g, 62%) was isolated as a yellow oil. 1H NMR (360 MHz, CDCl3) δ 1.13 (3H, d, J=6.5 Hz), 2.20-2.34 (1H, m), 2.39-2.47 (1H, m), 2.73-2.83 (2H, m), 3.34-3.49 (1H, m), 6.90 (1H, d, J=8.8 Hz), 7.40 (1H, d, J=3.3 Hz), 7.73 (1H, d, J=8.8 Hz), 7.89 (1H, d, J=3.3 Hz), 12.93 (1H, s). MS (ES+) 260 (M+1).

reactant | 5-bromo-8-hydroxy-3-methyl-1,2,3,4-tetrahydronaphthalen-1-one | 0.012 mol, 3.0 g | BrC1=C2CC(CC(C2=C(C=C1)O)=O)C | C11H11BrO2
reactant | 2-(tri-n-butylstannyl)thiazole | 0.17 mol, 6.4 g | C(CCC)[Sn](C=1SC=CN1)(CCCC)CCCC
solvent | dioxan | 100 mL | O1CCOCC1 | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-Hydroxy-3-methyl-5-(thiazol-2-yl)-1,2,3,4-tetrahydronaphthalen-1-one | 1.9 g, 62% | OC=1C=CC(=C2CC(CC(C12)=O)C)C=1SC=CN1 | C14H13NO2S
